US08455477B2
6-bromo-4-methoxypyrazolo[1,5-a]pyridine (500 mg, 2.20 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (916 mg, 4.40 mmol), tris(dibenzylideneacetone)dipalladium (0) (101 mg, 0.110 mmol), potassium fluoride (422 mg, 7.27 mmol), and tri-t-butylphosphonium tetrafluoroborate (63.9 mg, 0.220 mmol) were suspended in DMF (22 ml), sparged with argon for 10 minutes, then heated to 100° C. After 2.5 h, the mixture was cooled to ambient temperature, diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) to give 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine as a tan solid.

reactant | 6-bromo-4-methoxypyrazolo[1,5-a]pyridine | 2.20 mmol, 500 mg | BrC=1C=C(C=2N(C1)N=CC2)OC | C8H7BrN2O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.40 mmol, 916 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium fluoride | 7.27 mmol, 422 mg | [F-].[K+]
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.220 mmol, 63.9 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | DMF | 22 ml | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.110 mmol, 101 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2 | C12H12N4O
